US04638000
In a mixture of 1 ml of methanol and 1 ml of 1N aqueous sodium hydroxide solution is dissolved 30 mg of ethyl 3(R)-(1-ethoxycarbonyl-5-piperidinopentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate.dihydrochloride as obtained in Example 79, and the solution is allowed to stand at room temperature for 1 hour. After methanol is evaporated off under reduced pressure, 2 ml of water and 0.5 ml of acetic acid are added to the residue, followed by purification by Amberlite XAD-2 column chromatography (acetone:water=2:1). The eluate is concentrated under reduced pressure, and the residue is lyophilized to give 17 mg of 3(R)-(1-carboxy-5-piperidinopentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as a colorless powder.

reactant | ethyl 3(R)-(1-ethoxycarbonyl-5-piperidinopentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate.dihydrochloride | 30 mg | Cl.Cl.C(C)OC(=O)C(CCCCN1CCCCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)OCC)C=CC=C2
solvent | methanol | 1 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
product | 3(R)-(1-carboxy-5-piperidinopentyl)amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 17 mg | C(=O)(O)C(CCCCN1CCCCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C22H31N3O5S
